US05817834
Preparation of Methyl 2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate
A solution of N-(2,2,2-trifluoroethyl)-4-chlorobenzimidoyl chloride (10.2 g, 0.04 mol) and methyl 2-chloroacrylate (5.8 g, 0.048 mol) in N,N-dimethylformamide is treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 19.5 g, 0.128 mol) over 30 minutes at such a rate that the temperature is kept at 40° C., stirred for two hours, and quenched with water and ethyl acetate. The organic layer is separated, washed sequentially with aqueous HCl and water, and concentrated in vacuo to obtain an oil. Flash column chromatography of the oil using silica gel and a 20% ethyl acetate in heptane solution and crystallization from heptane gives the title product as white crystals (4.2 g, 34.6% yield, mp 120.0°-122.5° C.).

reactant | N-(2,2,2-trifluoroethyl)-4-chlorobenzimidoyl chloride | 0.04 mol, 10.2 g | FC(CN=C(C1=CC=C(C=C1)Cl)Cl)(F)F | C9H6Cl2F3N
reactant | methyl 2-chloroacrylate | 0.048 mol, 5.8 g | ClC(C(=O)OC)=C | C4H5ClO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.128 mol, 19.5 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate | 4.2 g, 34.6% yield | ClC1=CC=C(C=C1)C=1NC(=CC1C(=O)OC)C(F)(F)F | C13H9ClF3NO2
